US06458819B1
3-(2-Phenyl-2-hydroxyethyl)-4,5-dimethyl-thiazolium chloride:
The neat mixture of 2-chloro-l-phenylethanol (2.34 g, 14.9 mmole) and 4,5-dimethylthiazole (1.69 g, 14.9 mmole) were heated with stirring at 135° C. for 28 hrs. It was cooled to room temperature and water (30 mL) was added to the reaction mixture with stirring, and then was extracted with ether (30 mL). The water layer was treated with actived carbon and evaporated to dryness. It was crystallized from a mixture of acetonitrile and ether to give a racemic product as prisms; 0.39 g (9.7%); mp. 201-203° C.

reactant | 2-chloro-l-phenylethanol | 14.9 mmole, 2.34 g | ClCC(O)C1=CC=CC=C1 | C8H9ClO
reactant | 4,5-dimethylthiazole | 14.9 mmole, 1.69 g | CC=1N=CSC1C | C5H7NS
solvent | water | 30 mL | O | H2O
product | 3-(2-Phenyl-2-hydroxyethyl)-4,5-dimethyl-thiazolium chloride | [Cl-].C1(=CC=CC=C1)C(C[N+]1=CSC(=C1C)C)O | InChI=1S/C13H16NOS.ClH/c1-10-11(2)16-9-14(10)8-13(15)12-6-4-3-5-7-12;/h3-7,9,13,15H,8H2,1-2H3;1H/q+1;/p-1
